US08703946B2
15. 7,7-dimethyl-2-phenoxymethyl-4,5,6,7-tetrahydro-pyrazolo[1,5-a]pyrazine
The compound was prepared from 5-phenoxymethyl-2H-pyrazole-3-carboxylic acid ethyl ester and 2-hydroxy-2-methyl-propyl-carbamic acid tert-butyl ester using the methods described in the preceding examples 11 (rac-2-(2-tert-butoxycarbonylamino-propyl)-5-phenoxymethyl-2H-pyrazole-3-carboxylic acid ethyl ester), 12 (rac-6-methyl-2-phenoxymethyl-6,7-dihydro-5H-pyrazolo[1,5-a]pyrazin-4-one), and 13 (rac-6-methyl-2-phenoxymethyl-4,5,6,7-tetrahydro-pyrazolo[1,5-a]pyrazine).

reactant | 5-phenoxymethyl-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1NN=C(C1)COC1=CC=CC=C1 | C13H14N2O3
reactant | 2-hydroxy-2-methyl-propyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC(C)(C)O)=O | C9H19NO3
reactant | rac-2-(2-tert-butoxycarbonylamino-propyl)-5-phenoxymethyl-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(N=C(C1)COC1=CC=CC=C1)CC(C)NC(=O)OC(C)(C)C | C21H29N3O5
reactant | rac-6-methyl-2-phenoxymethyl-6,7-dihydro-5H-pyrazolo[1,5-a]pyrazin-4-one | CC1NC(C=2N(C1)N=C(C2)COC2=CC=CC=C2)=O | C14H15N3O2
reactant | rac-6-methyl-2-phenoxymethyl-4,5,6,7-tetrahydro-pyrazolo[1,5-a]pyrazine | CC1NCC=2N(C1)N=C(C2)COC2=CC=CC=C2 | C14H17N3O
product | 7,7-dimethyl-2-phenoxymethyl-4,5,6,7-tetrahydro-pyrazolo[1,5-a]pyrazine | CC1(CNCC=2N1N=C(C2)COC2=CC=CC=C2)C | C15H19N3O
